US06682869B2
Synthesis of poly(p-(1-benzyloxypropyl)oxystyrene/p-hydroxystyrene)
In 48 g of tetrahydrofuran was dissolved 12 g of poly(p-hydroxystyrene) having a weight average molecular weight (Mw) of 9,000 and a dispersity (Mw/Mn) of 1.05. A catalytic amount of p-toluenesulfonic acid was added. At 10° C., 4.3 g (0.029 mol) of benzyl propenyl ether was added to the solution, which was stirred for 2 hours. The reaction mixture was precipitated from a water/isopropanol mixture, followed by filtration and drying. The end polymer was obtained in an amount of 13.5 g. On 1H-NMR analysis, the ratio of p-(1-benzyloxypropyl)oxystyrene units to p-hydroxystyrene units was approximately 22.5:77.5.

reactant | poly(p-hydroxystyrene) | 12 g | C#CC1=CC=C(C=C1)O | C8H6O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzyl propenyl ether | 0.029 mol, 4.3 g | C(=CC)OCC1=CC=CC=C1 | C10H12O
reactant | p-(1-benzyloxypropyl)oxystyrene | C(C1=CC=CC=C1)OC(CC)OC1=CC=C(C=C)C=C1 | C18H20O2
reactant | p-hydroxystyrene | OC1=CC=C(C=C)C=C1 | C8H8O
solvent | tetrahydrofuran | 48 g | O1CCCC1 | C4H8O
product | p-(1-benzyloxypropyl)oxystyrene p-hydroxystyrene | C(C1=CC=CC=C1)OC(CC)OC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1 | InChI=1S/C18H20O2.C8H8O/c1-3-15-10-12-17(13-11-15)20-18(4-2)19-14-16-8-6-5-7-9-16;1-2-7-3-5-8(9)6-4-7/h3,5-13,18H,1,4,14H2,2H3;2-6,9H,1H2
